US07820837B2
5-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1H-indole
A solution of (2′,6′-dimethylbiphenyl-3-yl)methanol (1.0 g, 4.71 mmol), 5-hydroxyindole (0.63 g, 4.73 mmol) and tributylphosphine (1.5 mL, 6.02 mmol) in tetrahydrofuran (30 mL) was stirred, and 1,1′-(azodicarbonyl)dipiperidine (1.6 g, 6.34 mmol) was added by portions, and the mixture was stirred at room temperature for 18 hr. Diethyl ether (30 mL) was added to the reaction mixture, and the precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10-1:5) to give the title compound (0.95 g, yield 62%) as a pale-brown oil.

reactant | (2′,6′-dimethylbiphenyl-3-yl)methanol | 4.71 mmol, 1.0 g | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)CO | C15H16O
reactant | 5-hydroxyindole | 4.73 mmol, 0.63 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | tributylphosphine | 6.02 mmol, 1.5 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 6.34 mmol, 1.6 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 5-[(2′,6′-dimethylbiphenyl-3-yl)methoxy]-1H-indole | 0.95 g, yield 62% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)COC=1C=C2C=CNC2=CC1 | C23H21NO
